US04348220
o-Methylthiomethylbenzenesulfonyl isocyanate
Phosgene (2.5 ml, 35 mmol) was added portionwise into a nitrogen-purged mixture containing 6.8 g (31 mmol) of o-methylthiomethylbenzenesulfonamide, 0.1 g of DABCO, and 3.8 g (38 mmol) of n-butyl isocyanate in 60 ml of dry xylene, while the temperature was maintained at 130°-135° C. between additions. Stirring was continued for 1 hour at 130°-135° C. The mixture was cooled to room temperature and the solid was filtered off under nitrogen. The filtrate was concentrated to yield 9.0 g (theo 7.6 g) of oil: IR cm-1 2240 (N=C=O), no NH at ca 3300. The oil was taken up in 90 ml of dry methylene chloride.

reactant | Phosgene | 35 mmol, 2.5 ml | C(=O)(Cl)Cl | CCl2O
reactant | o-methylthiomethylbenzenesulfonamide | 31 mmol, 6.8 g | CSCC1=C(C=CC=C1)S(=O)(=O)N | C8H11NO2S2
reactant | DABCO | 0.1 g | C1CN2CCN1CC2 | C6H12N2
reactant | n-butyl isocyanate | 38 mmol, 3.8 g | C(CCC)N=C=O | C5H9NO
solvent | xylene | 60 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
product | o-Methylthiomethylbenzenesulfonyl isocyanate | CSCC1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H9NO3S2
